US04369312
In tetrahydrofuran (20 ml) is dissolved 2,2,2-trichloroethyl (E)-7-t-butoxycarbonylhydrazono-3-methyl-3-cephem-4-carboxylate (4.60 g), and under ice-cooling, a 1 M tetrahydrofuran solution of borane-tetrahydrofuran complex (23 ml) is added dropwise. The mixture is stirred at that temperature for 30 minutes. The reaction mixture is poured in a mixture of ethyl acetate (150 ml) and aqueous sodium chloride (200 ml). The organic layer is taken, dried over magnesium sulfate and concentrated. The residual oil is subjected to silica gel (50 g) column chromatography and elution is carried out with ethyl acetate-benzene. The above procedure gives crystals of 2,2,2-trichloroethyl 7β-t-butoxycarbonylhydrazino-3-methyl-3-cephem-4-carboxylate (2.49 g).

reactant | 2,2,2-trichloroethyl (E)-7-t-butoxycarbonylhydrazono-3-methyl-3-cephem-4-carboxylate | 4.60 g | C(C)(C)(C)OC(=O)N\N=C/1\[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C15H18Cl3N3O5S
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | 2,2,2-trichloroethyl 7β-t-butoxycarbonylhydrazino-3-methyl-3-cephem-4-carboxylate | 2.49 g | C(C)(C)(C)OC(=O)NN[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C15H20Cl3N3O5S
